US05091558
A solution of 1,4-naphthoquinone (79 g) in acetic anhydride (200 mL) and boron trifluoride etherate (10 mL) was heated overnight, then cooled to room temperature to give 1,2,4-triacetyloxynaphthalene, m.p. 136°-137° C.

reactant | 1,4-naphthoquinone | 79 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
reactant | acetic anhydride | 200 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | boron trifluoride etherate | 10 mL | B(F)(F)F.CCOCC
product | 1,2,4-triacetyloxynaphthalene | C(C)(=O)OC1=C(C=C(C2=CC=CC=C12)OC(C)=O)OC(C)=O | C16H14O6
